### PR TITLE
New PR of results showing that the Baer sum makes Ext^1 an abelian group (plus lots of helper lemmas and general theory). Changes made based on Dan's feedback from previous PR.

### PR DESCRIPTION
**Pull request by JacobEnder**
I noted in my last commit that I'd be making another commit after combing over the files for unnecessary imports, and I'll make the new files AbGroups/Product.v to generalize Biproduct.v's results as appropriate.

### CODE REVIEW

File: theories/Algebra/AbGroups/AbHom.v [hunk 1]
```diff
@@ -19,15 +19,15 @@ Proof.
...
+Global Instance negate_hom {A : Group} {B : AbGroup}
   : Negate (@Hom Group _ A B) := grp_homo_compose ab_homo_negation.
 
 (** For [A, B : AbGroup], homomorphisms A $-> B form an abelian group.  *)
 Definition grp_hom `{Funext} (A : Group) (B : AbGroup) : Group.
 Proof.
   nrefine (Build_Group
               (GroupHomomorphism A B)
-              (fun f g => grp_homo_compose ab_codiagonal (grp_prod_corec f g))
+              (fun f g => ab_homo_add f g)
```
Comment (jdchristensen) [inline theories/Algebra/AbGroups/AbHom.v]: Just use `ab_homo_add` (nothing else at all on the line)

File: theories/Algebra/AbGroups/AbSES/BaerSum.v [hunk 2]
```diff
@@ -99,7 +99,7 @@ Proof.
   apply abses_pushout_pullback_reorder.
 Defined.
 
-(** The right unit law for the Baer sum says that for all [E : AbSES B A], E + E_0 = E, where E_0 is the split short exact sequence. *)
+(** The right unit law for the Baer sum says that for all [E : AbSES B A], [E] + [E_0] = [E], where [E_0] is the split short exact sequence. *)
```
Comment (jdchristensen) [inline theories/Algebra/AbGroups/AbSES/BaerSum.v]: Change `[E] + [E_0] = [E]` to `[E + E_0 = E]`.

File: theories/Algebra/AbGroups/AbHom.v [hunk 3]
```diff
@@ -19,15 +19,15 @@ Proof.
...
               grp_homo_const
               (@negate_hom _ _) _).
```
Comment (jdchristensen) [inline theories/Algebra/AbGroups/AbHom.v]: Change `(@negate_hom _ _)` to `negate_hom`.

File: theories/Algebra/AbGroups/Biproduct.v [hunk 4]
```diff
@@ -0,0 +1,310 @@
...
+
+Lemma ab_biprod_decompose {B A : AbGroup} (a : A) (b : B)
+  : (a, b) = ((a, group_unit) : ab_biprod A B) + (group_unit, b).
+Proof.
+  apply path_prod; cbn.
+  - exact (right_identity _)^.
+  - exact (left_identity _)^.
+Defined.
+
+(* Maps out of biproducts are determined on the two inclusions. (Could be stated more generally for pointed types instead of abelian groups.) *)
```
Comment (jdchristensen) [inline theories/Algebra/AbGroups/Biproduct.v]: I don't understand the parenthetical comment here.  This would be true for maps *into* the biproduct, but I don't see how it would work for maps out of the biproduct.

File: theories/Algebra/AbGroups/AbHom.v [hunk 5]
```diff
@@ -0,0 +1,49 @@
+Require Import AbelianGroup.
```
Comment (jdchristensen) [inline theories/Algebra/AbGroups/AbHom.v]: Placeholder:  check for unneeded imports in all of the new or changed files.

File: theories/Algebra/AbGroups/Biproduct.v [hunk 6]
```diff
@@ -0,0 +1,307 @@
+Require Import WildCat.
```
Comment (jdchristensen) [inline theories/Algebra/AbGroups/Biproduct.v:1]: Placeholder: create Groups/Product.v, and move as much as possible from here to there.  Also see if it works to move `grp_prod*` stuff from Groups/Group.v to Groups/Product.v.

**Comment by jdchristensen** [comment]
I have finished my review.  All of the remaining tasks are listed as review comments above.  I checked over the comments I made on the previous PR, and duplicated here the ones that still need to be done, so all of the information is here now.

File: theories/Algebra/AbGroups/AbHom.v (hunk 3 above)
Comment (jdchristensen) [reply theories/Algebra/AbGroups/AbHom.v]: Maybe combine some of the lines as well.

**Comment by jdchristensen** [comment]
@jarlg Let us know if you see anything that needs fixing.

File: theories/Algebra/AbGroups/AbHom.v (hunk 5 above)
Comment (jarlg) [reply theories/Algebra/AbGroups/AbHom.v]: I also prefer to group "similar" imports on one line, as it makes it easier to get an overview of the dependencies.

File: theories/Algebra/AbGroups/AbHom.v [hunk 7]
```diff
@@ -0,0 +1,49 @@
...
+Require Import HoTT.Basics HoTT.Types.
+Require Import Truncations HSet.
+Require Import Colimits.Coeq.
+Require Export Algebra.Groups.
```
Comment (jarlg) [inline theories/Algebra/AbGroups/AbHom.v]: What's the reason for the ```Export``` here? If it's really needed, it should be listed after the imports with a newline in-between.

File: theories/Algebra/AbGroups/AbHom.v [hunk 8]
```diff
@@ -0,0 +1,49 @@
...
+(** We can negate an abelian group homomorphism by composing with ab_homo_negation. *)
+Global Instance negate_hom {A : Group} {B : AbGroup}
+  : Negate (@Hom Group _ A B) := grp_homo_compose ab_homo_negation.
+
+(** For [A, B : AbGroup], homomorphisms A $-> B form an abelian group.  *)
+Definition grp_hom `{Funext} (A : Group) (B : AbGroup) : Group.
+Proof.
+  nrefine (Build_Group
+              (GroupHomomorphism A B)
+              (fun f g => ab_homo_add f g)
```
Comment (jarlg) [inline theories/Algebra/AbGroups/AbHom.v]: Change to just ```ab_homo_add```.

File: theories/Algebra/AbGroups/AbHom.v [hunk 9]
```diff
@@ -0,0 +1,49 @@
...
+  refine (grp_homo_compose ab_codiagonal _).
+  (** [fun a => f(a) + g(a)] **)
+  exact (grp_prod_corec f g).
+Defined.
+
+(** We can negate an abelian group homomorphism by composing with ab_homo_negation. *)
+Global Instance negate_hom {A : Group} {B : AbGroup}
+  : Negate (@Hom Group _ A B) := grp_homo_compose ab_homo_negation.
+
+(** For [A, B : AbGroup], homomorphisms A $-> B form an abelian group.  *)
```
Comment (jarlg) [inline theories/Algebra/AbGroups/AbHom.v]: Everything inside square brackets should be literal Coq code (and vice-versa), so it should be ```[A B : AbGroup]``` and ```[A $-> B]```.

File: theories/Algebra/AbGroups/AbSES/BaerSum.v [hunk 10]
```diff
@@ -1,54 +1,13 @@
...
-Require Import AbGroups.AbelianGroup AbSES.Core AbSES.Pullback AbSES.Pushout.
+Require Import AbGroups.AbelianGroup AbGroups.Biproduct AbGroups.AbHom.
+Require Import AbSES.Core AbSES.Pullback AbSES.Pushout AbSES.DirectSum.
 
-Local Open Scope pointed_scope.
-Local Open Scope type_scope.
 Local Open Scope mc_add_scope.
 
-(** ** The Baer sum of short exact sequences *)
+(** ** The Baer sum of two short exact sequences, lemmas and consequences. *)
```
Comment (jarlg) [inline theories/Algebra/AbGroups/AbSES/BaerSum.v]: The top-level heading should use a single bullet, i.e. ```(** * The Baer sum ....```.

File: theories/Algebra/AbGroups/AbSES/BaerSum.v [hunk 11]
```diff
@@ -96,3 +55,153 @@ Proof.
   intros ? ? g ? ? f E; cbn.
   apply abses_pushout_pullback_reorder.
 Defined.
+
```
Comment (jarlg) [inline theories/Algebra/AbGroups/AbSES/BaerSum.v:57]: There's a typo further up: "foal" should be "goal".

File: theories/Algebra/AbGroups/AbSES/DirectSum.v [hunk 12]
```diff
@@ -0,0 +1,102 @@
+Require Import Basics Types Pointed.
+Require Import WildCat Homotopy.ExactSequence.
+Require Import AbGroups.AbelianGroup AbSES.Core AbGroups.Biproduct.
+
+Local Open Scope pointed_scope.
+Local Open Scope type_scope.
+Local Open Scope mc_add_scope.
+
+(** ** The direct sum of short exact sequences *)
```
Comment (jarlg) [inline theories/Algebra/AbGroups/AbSES/DirectSum.v]: Top-level headings should use a single bullet.

File: theories/Algebra/AbGroups/AbSES/Ext.v [hunk 13]
```diff
@@ -21,3 +21,33 @@ Definition Ext' (B A : AbGroup) := Tr 0 (AbSES' B A).
...
 Global Instance isprofunctor_ext' `{Univalence}
   : IsProfunctor Ext' := isprofunctor_compose _ _.
+
+(** [Ext B A] is an abelian group for any [A, B : AbGroup]. The proof of commutativity is a bit faster if we separate out the proof that [Ext B A] is a group. *)
+Definition grp_ext `{Univalence} (A B : AbGroup) : Group.
+Proof.
+  snrapply (Build_Group (Ext B A)).
+  - intros E F.
+    strip_truncations.
+    exact (tr (abses_baer_sum E F)).
```
Comment (jarlg) [inline theories/Algebra/AbGroups/AbSES/Ext.v:31]: I prefer the following lines, which avoid the ```strip_truncations``` tactic:
```coq
  - rapply Trunc_rec; intro E.
    exact (Trunc_functor _ (abses_baer_sum E)).
```

File: theories/Algebra/AbGroups/AbSES/Ext.v [hunk 14]
```diff
@@ -21,3 +21,33 @@ Definition Ext' (B A : AbGroup) := Tr 0 (AbSES' B A).
...
+  - exact (point (Ext B A)).
+  - unfold Negate.
+    exact (Trunc_functor _ (abses_pullback (group_inverse (g := ab_hom _ _) grp_homo_id))).
```
Comment (jarlg) [inline theories/Algebra/AbGroups/AbSES/Ext.v]: Change this line to ```exact (Trunc_functor _ (abses_pullback (- grp_homo_id))).```.

File: theories/Algebra/AbGroups/Biproduct.v (hunk 4 above)
Comment (jarlg) [reply theories/Algebra/AbGroups/Biproduct.v]: I think this is an incorrect comment of mine (or at least I can't make sense of it now). Indeed, remove it.

**Review by jarlg — COMMENTED** [review]
Found a few minor improvements, and a few typos. Didn't check or think about where things are placed within their respective files. I think it's coming along nicely!

_Edit:_ I see now that my replies/additions to Dan's comments are showing up as separate comments below, which is a bit weird. But they're displaying correctly alongside Dan's comments above.

File: theories/Algebra/AbGroups/Biproduct.v (hunk 6 above)
Comment (jdchristensen) [reply theories/Algebra/AbGroups/Biproduct.v:1]: On second thought, this is out of scope for this PR, so I will mark this as resolved.

**Comment by JacobEnder** [comment]
Redundant imports have been deleted. You'll notice some things now say grp_prod where before they said ab_biprod; this is left over from when I begun to generalize results in Biproduct.v. It doesn't affect compilation, and it might save a few seconds when these results do get generalized, so I left them.

@jarlg : To your first comment on Ext.v, changing out of the strip_truncations tactic caused ab_ext to fail on line 51, where we apply ap. I couldn't tell why, so I left it for the moment. If you want to have a look, that would be awesome.

Let me know anything I've missed. I've built the library and everything compiles nicely :)

**Comment by jarlg** [comment]
I've tested the changes I suggested with Coq 8.16 and they work for me. Are you also running Coq 8.16?

_Update:_ I looked things over (but didn't run anything) and everything seems resolved apart from that change to Ext.v.

File: theories/Algebra/AbGroups/AbSES/Ext.v [hunk 15]
```diff
@@ -1,4 +1,4 @@
-Require Import Basics Types Pointed WildCat.
+Require Import Basics Types Pointed WildCat WildCat.Profunctor.
```
Comment (jdchristensen) [inline theories/Algebra/AbGroups/AbSES/Ext.v]: I don't think WildCat.Profunctor is needed.

File: theories/Algebra/AbGroups/Biproduct.v [hunk 16]
```diff
@@ -182,15 +181,14 @@ Defined.
...
+  : (a, b) = ((a, group_unit) : grp_prod A B) + (group_unit, b).
 Proof.
   apply path_prod; cbn.
   - exact (right_identity _)^.
   - exact (left_identity _)^.
 Defined.
 
-(* Maps out of biproducts are determined on the two inclusions. (Could be stated more generally for pointed types instead of abelian groups.) *)
-Lemma equiv_path_biprod_corec `{Funext} {A B X : AbGroup} (phi psi : ab_biprod A B $-> X)
+Lemma equiv_path_biprod_corec `{Funext} {A B X : AbGroup} (phi psi : grp_prod A B $-> X)
```
Comment (jdchristensen) [inline theories/Algebra/AbGroups/Biproduct.v]: I think the first part of the comment should remain.

**Comment by jdchristensen** [comment]
I think grp_prod should be changed back to ab_biprod, for consistency.

**Comment by JacobEnder** [comment]
> I've tested the changes I suggested with Coq 8.16 and they work for me. Are you also running Coq 8.16?
> 
> _Update:_ I looked things over (but didn't run anything) and everything seems resolved apart from that change to Ext.v.

For whatever reason, opam on WSL can't seem to find Coq 8.16. That said, I'm more than happy to make the change if we know that everything will compile on 18.6. Guessing this is some sort of WSL issue. Let me know how you want to proceed.

**Comment by Alizter** [comment]
> > I've tested the changes I suggested with Coq 8.16 and they work for me. Are you also running Coq 8.16?
> > _Update:_ I looked things over (but didn't run anything) and everything seems resolved apart from that change to Ext.v.
> 
> For whatever reason, opam on WSL can't seem to find Coq 8.16. That said, I'm more than happy to make the change if we know that everything will compile on 18.6. Guessing this is some sort of WSL issue. Let me know how you want to proceed.

Did you do `opam update`?

**Comment by JacobEnder** [comment]
> Did you do `opam update`?

After restarting my shell, this worked - I'm on 8.16.0 now. For whatever reason, the compiler still doesn't like that line. I'm not sure why, as my files are up to date. This is the only part of the library that won't build.

File: theories/Algebra/AbGroups/AbSES/Ext.v (hunk 13 above)
Comment (jdchristensen) [reply theories/Algebra/AbGroups/AbSES/Ext.v:31]: I confirmed that the proposed change builds fine for me using Coq 8.16.0.  Maybe @JacobEnder needs to run `make clean` and then `make`?

Comment (jdchristensen) [reply theories/Algebra/AbGroups/AbSES/Ext.v:31]: That said, I think the existing code is maybe a bit easier to read?

File: theories/Algebra/AbGroups/Biproduct.v [hunk 17]
```diff
@@ -112,7 +111,7 @@ Definition ab_corec_beta {X Y A B : AbGroup} (f : X $-> Y) (g0 : Y $-> A) (g1 :
 
 Definition functor_ab_biprod {A A' B B' : AbGroup} (f : A $-> A') (g: B $-> B')
   : ab_biprod A B $-> ab_biprod A' B'
-  := (ab_biprod_corec (f $o ab_biprod_pr1) (g $o ab_biprod_pr2)).
+  := (grp_prod_corec (f $o ab_biprod_pr1) (g $o ab_biprod_pr2)).
```
Comment (jdchristensen) [inline theories/Algebra/AbGroups/Biproduct.v]: To make it easier to track, I'm repeating myself here:  I think that for now we should switch back to using `ab_biprod` instead of `grp_prod`.  I have only marked this spot, but viewing the diff for the last commit shows several that changed.

File: theories/Algebra/AbGroups/AbSES/Ext.v (hunk 13 above)
Comment (JacobEnder) [reply theories/Algebra/AbGroups/AbSES/Ext.v:31]: Running make clean and then make still doesn't resolve the issue. I'm really not sure why. I'm happy to keep the strip_truncations sequence in, or change it. It seems like this is an issue on my end and that the library should build fine generally. I'm going to push the other corrections I've made, and if we ultimately decide to change this part of Ext.v, I can just quickly push that too.

Comment (jarlg) [reply theories/Algebra/AbGroups/AbSES/Ext.v:31]: I don't think one should push code that doesn't build locally, so let's leave it as-is.

**Review by jdchristensen — APPROVED** [review]

**Comment by jdchristensen** [comment]
Thanks, this LGTM now!

**Comment by jdchristensen** [comment]
I'll merge once I hear from @jarlg

**Comment by jarlg** [comment]
I'm happy with it, feel free to merge.
